US07674789B2
118c) 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-4-methyl-N-1,3-thiazol-2-ylbenzamide
To the solution of 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide (30 mg, 0.055 mmol) in dichloromethane (3.0 mL) were added N,N-dimethyl-1,2-ethanediamine (12.2 μL, 0.11 mmol) and triethylamine (15.6 μL, 0.11 mmol). The reaction mixture was stirred at room temperature for 16 hours then was concentrated, redissolved in DMSO (0.5 mL), filtered and applied to the reverse phase HPLC to afford the titled compound 16.9 mg (54%). LC-MS m/z 565 (M+H)+; 1H-NMR (MeOD) 2.20 (s, 3H), 2.33 (m, 7H), 2.81 (s, 2H), 3.26 (m, 1H), 4.13 (m, 1H), 4.43 (s, 1H), 7.17 (m, 3H), 7.50 (m, 3H), 8.01 (m, 2H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide | 0.055 mmol, 30 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)S(=O)C)=O | C24H18F2N6O3S2
reactant | N,N-dimethyl-1,2-ethanediamine | 0.11 mmol, 12.2 μL | CN(CCN)C | C4H12N2
reactant | triethylamine | 0.11 mmol, 15.6 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-4-methyl-N-1,3-thiazol-2-ylbenzamide | 16.9 mg, 54% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)NCCN(C)C)=O | C27H26F2N8O2S
